I-V characteristics of BC547
*Including the BC547 model model file
.include BC547.txt
vin 1 0 dc 5v
r1 1 2 470
*Voltage source of 0V to measure current
vib 2 3 dc 0v
*Specifying BJTs
*name collector base emitter modelname as in model file
q1 4 3 0 bc547
*Vin for DC analysis
.dc vin -3 3 0.01
.control
run 
plot vib#branch vs v(3)
.endc
