I-V Characteristics of BC547
*Including the BC547 model file
.include bc547.txt
vin 1 0 dc 5v
r1 1 2 470
*Voltage source of 0 V to measure current
vib 2 3 dc 0v
*Specifying BJTs in this manner-
*name collector base emitter modelname as in model file
q1 4 3 0 bc547a
*Vin for DC analysis
.dc vin -3 3 0.01
.control
run
plot vib#branch vs v(3)
.endc
